US07612092B2
tert-Butyl 4-(((4-(4-amino-3-fluorophenoxy)-6-cyano-7-quinolyl)oxy)methyl)-1-piperidinecarboxylate
4-(4-Amino-3-fluorophenoxy)-1-hydroxy-6-quinoline carbonitrile (500 mg), tert-butyl 4-(bromomethyl)-1-piperidinecarboxylate (550 mg), potassium carbonate (700 mg) and dimethylformamide (5 ml) were stirred together at 60° C. for 2 hours. Water and ethyl acetate were added for extraction, and the extract was dried over magnesium sulfate. The drying agent was filtered out, and silica gel was added to the filtrate which was then distilled off under reduced pressure for adsorption. The reaction solution-adsorbed silica gel was subjected to column chromatography (hexane:ethyl acetate=1:1, followed by 1:2, 1:3, ethyl acetate) in a dry column packed with silica gel, to obtain 423 mg of a brown oil.

reactant | 4-(4-Amino-3-fluorophenoxy)-1-hydroxy-6-quinoline carbonitrile | 500 mg | NC1=C(C=C(OC2=CCN(C3=CC=C(C=C23)C#N)O)C=C1)F | C16H12FN3O2
reactant | tert-butyl 4-(bromomethyl)-1-piperidinecarboxylate | 550 mg | BrCC1CCN(CC1)C(=O)OC(C)(C)C | C11H20BrNO2
reactant | potassium carbonate | 700 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
product | tert-Butyl 4-(((4-(4-amino-3-fluorophenoxy)-6-cyano-7-quinolyl)oxy)methyl)-1-piperidinecarboxylate | 423 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)F | C27H29FN4O4
